US05962479
2-(2,6-Dimethyl-phenoxy)-N4-(1-ethyl-propyl)-6-methyl-pyridine-3,4-diamine
A mixture of (1-ethyl-propyl)-[6-methyl-3-nitro-2-(4-chloro-2,6-dimethyl-phenoxy)-pyridin-4-yl]-amine (800 mg, 2.12 mmol) and 160 mg of 10% Pd/C in 150 ml of ethanol was hydrogenated at 50 psi overnight. The mixture was filtered through Celite® and the filtrate was concentrated to dryness to give a purple glass form (810 mg) which was purified through silica gel column chromatography using 1:1 chloroform:hexane as eluent to give the title compound as tan crystals (360 mg), mp 98-100° C. 1H NMR (CDCl3) δ7.05 (m, 3H), 6.11 (s, 1H), 4.00 (brs, 1H), 3.28 (m, 11H), 3.09 (brs, 2H), 2.14 (s, 9H), 1.45-1.75 (m, 4H), 0.98 (t, 6H) ppm. The corresponding HCl salt was prepared as white solid, mp 158-162° C., 1H NMR(D2O) δ7.27 (s, 3H), 6.67 (s, 1H), 3.65 (m, 1H), 2.27 (s, 3H), 2.16 (s, 6H), 1.45-1.80 (m, 4H), 0.93 (t, 6H) ppm.

reactant | (1-ethyl-propyl)-[6-methyl-3-nitro-2-(4-chloro-2,6-dimethyl-phenoxy)-pyridin-4-yl]-amine | 2.12 mmol, 800 mg | C(C)C(CC)NC1=C(C(=NC(=C1)C)OC1=C(C=C(C=C1C)Cl)C)[N+](=O)[O-] | C19H24ClN3O3
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | Pd/C | 160 mg | [Pd] | Pd
product | 2-(2,6-Dimethyl-phenoxy)-N4-(1-ethyl-propyl)-6-methyl-pyridine-3,4-diamine | 360 mg | CC1=C(OC2=NC(=CC(=C2N)NC(CC)CC)C)C(=CC=C1)C | C19H27N3O
